US05229400
A Heck reaction of 4-bromobenzonitrile and acrylic acid gave 4-cyanocinnamic acid. The acid was reduced to the corresponding alcohol with ethyl chloroformate and then sodium borohydride. Yield 78.6%

reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 4-cyanocinnamic acid | Yield 78.6% | C(#N)C1=CC=C(C=CC(=O)O)C=C1 | C10H7NO2
